US06559145B2
N-(4-Chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-phenyl-1,4-dihydrothieno[2,3-c]pyridazine-3-carboxamide [BO.3, aryl=phenyl, Y=morpholinylmethyl]
A solution of methyl 6-(4-morpholinylmethyl)-4-oxo-1-phenyl-1,4-dihydrothieno[2,3-c]pyridazine-3-carboxylate (0.29 g) in 4-chlorobenzylamine (2 mL) is heated to 190 ° C. for 30 min. The reaction mixture is cooled to ambient temperature, the solvent is removed in vacuo and Et2O (15 mL) is added to the residue. The resulting precipitate is filtered and rinsed with Et2O to afford 0.24 g (65%) of the title compound as a tan solid. Physical characteristics: m.p. 182-184° C.; 1H NMR (400 MHz, CDCl3) δ 10.56, 7.71, 7.58, 7.42, 7.32, 4.69, 3.71, 3.65, 2.51; IR (diffuse reflectance) 1677, 1587, 1549, 1532, 1508, 1493, 1347, 1297, 1278, 1261, 1115, 1112, 799, 777, 701 cm−1; MS (EI) m/z 494 (M+); HRMS (FAB) m/z 495.1265 (C25H23ClN4O3S+H). Anal. Found: C, 60.18; H, 4.79; N, 11.04.

reactant | methyl 6-(4-morpholinylmethyl)-4-oxo-1-phenyl-1,4-dihydrothieno[2,3-c]pyridazine-3-carboxylate | 0.29 g | N1(CCOCC1)CC1=CC2=C(N(N=C(C2=O)C(=O)OC)C2=CC=CC=C2)S1 | C19H19N3O4S
reactant | 4-chlorobenzylamine | 2 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
product | N-(4-Chlorobenzyl)-6-(4-morpholinylmethyl)-4-oxo-1-phenyl-1,4-dihydrothieno[2,3-c]pyridazine-3-carboxamide | 0.24 g, 65% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(N2)C2=CC=CC=C2)SC(=C3)CN3CCOCC3)=O)C=C1 | C25H23ClN4O3S
